US04264593
B. Tris(p-t-amylphenyl) phosphine
A glass reactor equipped with a water-cooled reflux condenser, addition funnel, mechanically driven stirrer, thermometer and a nitrogen inlet was charged with 37 g (1.55 mole) of magnesium chips. A 30 cc portion of a solution containing 340.5 g (1.5 mole) of p-bromo-t-amylbenzene and one liter of tetrahydrofuran was added from the addition funnel with rapid stirring. When the reaction initiated, as indicated by an increase in the temperature of the reaction mixture, the remainder of the solution was added at a rate which maintained the reaction mixture at the boiling point without external heating. Following completion of the addition the reaction mixture was heated at the boiling point for two hours and allowed to cool to 15° C. A solution containing 68.8 g (0.5 mole) of phosphorus trichloride was then added at a rate which maintained the temperature of the reaction mixture at from 15° to 25° C. Following completion of the addition the reaction mixture was heated to the boiling point for two hours, allowed to cool and then poured with stirring into a mixture containing one liter of ice and 100 cc of concentrated aqueous hydrochloric acid. Stirring was continued until all of the ice melted, at which time sodium carbonate was gradually added until the pH of the solution was 7. One liter each of chloroform and water was added, the organic layer was separated and the water in this phase was removed using anhydrous magnesium sulfate. The chloroform was then removed by evaporation under the reduced pressure produced by a water aspirator to yield a yellow solid. This material was combined with a portion of methanol, pulverized and mixed thoroughly for one hour. The dried solid material weighed 170 g (72% yield), melted from 129.5° to 130° C. and was found to contain 83.3% carbon, 9.34% hydrogen and 6.50% phosphorus. The calculated values for the expected product are 83.9% carbon, 9.53% hydrogen and 6.57% phosphorus.

reactant | magnesium | 1.55 mole, 37 g | [Mg] | Mg
reactant | p-bromo-t-amylbenzene | 1.5 mole, 340.5 g | BrC1=CC=C(C=C1)C(C)(C)CC | C11H15Br
reactant | phosphorus trichloride | 0.5 mole, 68.8 g | P(Cl)(Cl)Cl | Cl3P
reactant | hydrochloric acid | 100 cc | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | phosphorus | [P] | P
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | chloroform | One liter | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | one liter | O1CCCC1 | C4H8O
product | Tris(p-t-amylphenyl) phosphine | 72% yield | C(C)(C)(CC)C1=CC=C(C=C1)P(C1=CC=C(C=C1)C(C)(C)CC)C1=CC=C(C=C1)C(C)(C)CC | C33H45P
